US07524841B2
After suspending 7-fluoro-2H,4H-benzo[e]1,2,4-thiadiazine-1,1,3-trione (3.00 g, 13.9 mmol) in 50% sulfuric acid (90 mL), the mixture was stirred at 130° C. for 1 hour. The reaction mixture was cooled in an ice bath while adding 40% aqueous sodium hydroxide for neutralization. The aqueous solution was concentrated under reduced pressure to 200 mL, and the precipitate was filtered out. It was then suspended in ethyl acetate (100 mL), and the insoluble portion was filtered out. The filtrate was concentrated under reduced pressure and dried to obtain 2-amino-5-fluorobenzenesulfonamide.

reactant | 7-fluoro-2H,4H-benzo[e]1,2,4-thiadiazine-1,1,3-trione | 13.9 mmol, 3.00 g | FC1=CC2=C(NC(NS2(=O)=O)=O)C=C1 | C7H5FN2O3S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | sulfuric acid | 90 mL | S(O)(O)(=O)=O | H2O4S
product | 2-amino-5-fluorobenzenesulfonamide | NC1=C(C=C(C=C1)F)S(=O)(=O)N | C6H7FN2O2S
